US05409928
(1) Preparation of 3-amino-4-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazole
To a suspension of 3-amino-2-carbamoyl-4-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazole (2.0 g) in methanol (20 ml) was added 5N sodium hydroxide solution (2.0 ml), and the mixture was refluxed for 1 hour. The solvent was distilled away under reduced pressure, and thereto was added water (50 ml) under ice-cooling. The mixture was neutralized (pH 7 to 8) with 10% hydrochloric acid, and the precipitate was separated by filtration, washed with chloroformdiethyl ether to give the title compound (1.3 g, 74.0%).

reactant | 3-amino-2-carbamoyl-4-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazole | 2.0 g | NC=1N(N=CC1C1=CC=C(C=C1)CC1=CC2=C(C=C1)OCO2)C(N)=O | C18H16N4O3
reactant | sodium hydroxide | 5N, 2.0 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-amino-4-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazole | 1.3 g, 74.0% | NC1=NNC=C1C1=CC=C(C=C1)CC1=CC2=C(C=C1)OCO2 | C17H15N3O2
